** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/test_HA.sch
.subckt test_HA

V2 B GND pulse 0 1.8 1n 1p 1p 10n 20n
V1 VDD GND 1.8
V3 A GND pulse 0 1.8 0 1p 1p 5n 10n
x1 SUM COUT A B VDD GND HA
**** begin user architecture code

.lib /import/yukari1/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt


**** end user architecture code
.ends

* expanding   symbol:  HA.sym # of pins=4
** sym_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/HA.sym
** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/HA.sch
.subckt HA SUM COUT A B VDD VSS
*.PININFO SUM:O COUT:O A:I B:I
x1 SUM A B VDD VSS XOR2X1
x2 COUT A B VDD VSS AND2X1
.ends


* expanding   symbol:  XOR2X1.sym # of pins=3
** sym_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/XOR2X1.sym
** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/XOR2X1.sch
.subckt XOR2X1 Y A B VDD VSS
*.PININFO Y:O A:I B:I
x1 A_b A VDD VSS INVX1
x2 B_b B VDD VSS INVX1
XM1 net3 A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM2 Y B_b net3 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 net4 B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM4 Y A_b net4 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM5 Y B net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM6 net1 A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM7 Y A_b net2 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM8 net2 B_b VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  AND2X1.sym # of pins=3
** sym_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/AND2X1.sym
** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/AND2X1.sch
.subckt AND2X1 Y A B VDD VSS
*.PININFO Y:O A:I B:I
x1 net1 A B VDD VSS NAND2X1
x2 Y net1 VDD VSS INVX1
.ends


* expanding   symbol:  INVX1.sym # of pins=2
** sym_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/INVX1.sym
** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/INVX1.sch
.subckt INVX1 Y A VDD VSS
*.PININFO Y:O A:I
XM1 Y A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
.ends


* expanding   symbol:  NAND2X1.sym # of pins=3
** sym_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/NAND2X1.sym
** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/NAND2X1.sch
.subckt NAND2X1 Y A B VDD VSS
*.PININFO Y:O A:I B:I
XM1 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM5 Y B net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 net1 A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
**** begin user architecture code


.control
save all
tran 0.01n 50n
plot A B SUM COUT
.endc


**** end user architecture code
.end
