** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/test_NAND3X1.sch
.subckt test_NAND3X1

V2 C GND pulse 0 1.8 0 1p 1p 20ns 40ns
V1 VDD GND 1.8
V3 B GND pulse 0 1.8 0 1p 1p 10ns 20ns
V4 A GND pulse 0 1.8 0 1p 1p 5ns 10ns
x1 Y A B C VDD GND NAND3X1
**** begin user architecture code

.lib /import/yukari1/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt


**** end user architecture code
.ends

* expanding   symbol:  NAND3X1.sym # of pins=4
** sym_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/NAND3X1.sym
** sch_path: /import/yukari1/lrburle/sky130RHBDlib/layout/xschem/sky130_rhbd/NAND3X1.sch
.subckt NAND3X1 Y A B C VDD VSS
*.PININFO Y:O A:I B:I C:I
XM1 net2 A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 net1 B net2 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Y C net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM5 Y B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM6 Y C VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
.ends

.GLOBAL VDD
.GLOBAL GND
**** begin user architecture code


.control
save all
tran 0.01n 90n
plot A B C Y
plot A Y
plot B Y
plot C Y
.endc


**** end user architecture code
.end
